Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.10079719912
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.43777695692
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-1.02960099833
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11]>>[C:1]([H:6])([H:7])=[C:8]([H:9])[C:10]#[C:11].[C:2]([H:3])([H:4])=[C:5],0.08684895494030001
[H:16].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.90226740339
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4](=[O:5])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6],3.72326394988
[O:1]=[C:2]([H:3])[C:8]([C:5]([O:4])([H:6])[H:7])=[C:9]([H:10])[H:11]>>[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]1=[C:9]([H:10])[H:11],0.5691018618399999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][C:2]=[C:3]([H:4])[H:5],0.98144104627
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.60139924068
[H:1][C:2]#[C:3].[O:4]=[C:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],-2.55014604036
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.944659284659999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.24759255806
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:5],1.59237384717
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.09585201417
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.07446962757
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.35329022066
[H:1][C:2]/[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13],1.4142060980200002
[H:1][C:2]1[O:3][C:4][O:5][C:6]1([H:7])[H:8]>>[H:1][C:2]([O:3][C:4]=[O:5])=[C:6]([H:7])[H:8],-1.20610688302
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],3.85683115806
[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.585570832819998
[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4](=[O:5])[H:6].[C:7]([H:8])([H:9])[H:10],3.45032712352
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],4.59543598152
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4][H:5],4.4973507147800005
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],1.6618819134799998
[O:1][C:2]([H:3])([C:4]#[C:5][H:6])[C:7]#[C:8][H:9]>>[H:9].[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]#[C:8],5.98011955758
[C:1]#[C:2][C:3][O:5][C:6][O:7][H:8].[H:4]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8],-4.5320799808
[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.22650784131
[H:9].[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]1([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-4.21314361629
[H:1][O:2][O:3][H:4]>>[H:1][O:2].[O:3][H:4],4.72507621396
